US07989633B2
8-[(4R)-3-Acetyl-5-(1H-imidazol-1-ylcarbonyl)-2,6-dimethyl-1,4-dihydropyridin-4-yl]-2-methyl-4H-chromen-4-one
220 mg (0.623 mmol) of (4R)-5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylic acid are dissolved in 20 ml of THF. After addition of 202 mg (1.245 mmol) of 1,1′-carbonyldiimidazole, the mixture is heated at 50° C. for 6 h. The solvent is then removed in vacuo, and the residue is taken up in dichloromethane. After washing with water and saturated sodium chloride solution, the organic phase is dried over magnesium sulfate. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 90 mg (35.8% of theory) of the title compound are obtained.

reactant | (4R)-5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylic acid | 0.623 mmol, 220 mg | C(C)(=O)C=1[C@H](C(=C(NC1C)C)C(=O)O)C=1C=CC=C2C(C=C(OC12)C)=O | C20H19NO5
reactant | 1,1′-carbonyldiimidazole | 1.245 mmol, 202 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-[(4R)-3-Acetyl-5-(1H-imidazol-1-ylcarbonyl)-2,6-dimethyl-1,4-dihydropyridin-4-yl]-2-methyl-4H-chromen-4-one | C(C)(=O)C1=C(NC(=C([C@@H]1C=1C=CC=C2C(C=C(OC12)C)=O)C(=O)N1C=NC=C1)C)C | C23H21N3O4
